US09062032B2
By using 500 mg of 2-(trimethylsilyl)ethyl 3-formylbenzoate and 188 mg of 3-aminopyridine, the reaction similar to Preparation Example 14 was performed, thereby obtaining 505 mg of 2-(trimethylsilyl)ethyl 3-[(pyridin-3-ylamino)methyl]benzoate.

reactant | 2-(trimethylsilyl)ethyl 3-formylbenzoate | 500 mg | C(=O)C=1C=C(C(=O)OCC[Si](C)(C)C)C=CC1 | C13H18O3Si
reactant | 3-aminopyridine | 188 mg | NC=1C=NC=CC1 | C5H6N2
product | 2-(trimethylsilyl)ethyl 3-[(pyridin-3-ylamino)methyl]benzoate | 505 mg | N1=CC(=CC=C1)NCC=1C=C(C(=O)OCC[Si](C)(C)C)C=CC1 | C18H24N2O2Si
